US04431576
Using the procedure of Example 3, 2.7 g of (1R,trans) 2,2-dimethyl-3-[(E)-3-methoxy-3-oxo-1-propenyl]-cyclopropane-1-carboxylic acid chloride in 12.5 ml of benzene and 1.23 ml of tert.-butanol were reacted to obtain 1.05 g of tert.-butyl (1R,trans) 2,2-dimethyl-3-[(E)-3-methoxy-3-oxo-1-propenyl]-cyclopropane-1-carboxylate melting at 67° C. with a specific rotation of [α]D20 =+75.5°±2° (c=0.5% in chloroform).

reactant | (1R,trans) 2,2-dimethyl-3-[(E)-3-methoxy-3-oxo-1-propenyl]-cyclopropane-1-carboxylic acid chloride | 2.7 g | CC1([C@@H]([C@H]1\C=C\C(=O)OC)C(=O)Cl)C | C10H13ClO3
reactant | tert.-butanol | 1.23 ml | C(C)(C)(C)O | C4H10O
solvent | benzene | 12.5 ml | C1=CC=CC=C1 | C6H6
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | tert.-butyl (1R,trans) 2,2-dimethyl-3-[(E)-3-methoxy-3-oxo-1-propenyl]-cyclopropane-1-carboxylate | 1.05 g | CC1([C@@H]([C@H]1\C=C\C(=O)OC)C(=O)OC(C)(C)C)C | C14H22O4
